US09447091B2
a) 1-(5-Amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazole-5-carboxamide
To a solution of N-(5-(5-cyano-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide (0.5 g, 1.28 mmol, 1 eq.) in ethanol (10 ml) was added 20% aqueous solution of potassium hydroxide (0.721 g, 12.88 mmol, 10 eq.) and the mixture was heated at 85° C. for 5 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to afford title product in 71% yield (0.32 g). LC-MS (ESI): Calculated mass: 364.11; Observed mass: 365.1 [M+H]+ (rt: 0.59 min).

reactant | N-(5-(5-cyano-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 1.28 mmol, 0.5 g, 1 eq. | C(#N)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O)C=C1 | C22H14F2N4O
reactant | potassium hydroxide | 12.88 mmol, 0.721 g, 10 eq. | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(5-Amino-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-1H-benzo[d]imidazole-5-carboxamide | 71% yield | NC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)N1C=NC2=C1C=CC(=C2)C(=O)N | C20H14F2N4O
